US05116862
4-t-Butyl-1-(hept-6-ynyl)-2,6,7-trioxabicyclo[2.2.2]octane was prepared from oct-7-ynoic acid and 3-t-butyl-3-hydroxymethyloxetane using methodology described in Example I.

reactant | oct-7-ynoic acid | C(CCCCCC#C)(=O)O | C8H12O2
reactant | 3-t-butyl-3-hydroxymethyloxetane | C(C)(C)(C)C1(COC1)CO | C8H16O2
product | 4-t-Butyl-1-(hept-6-ynyl)-2,6,7-trioxabicyclo[2.2.2]octane | C(C)(C)(C)C12COC(OC1)(OC2)CCCCCC#C | C16H26O3
